US04140843
Oligomeric α,α'-bis(cyclopentadienyl)-2,5-difluoro-paraxylene
In a 50 ml round flask, 0.615 g (2.91 mmols) of α,α'-dichloro-2,5-difluoro-para-xylene are treated under nitrogen at room temperature with 6.11 ml of a 1-n solution of sodium cyclopentadienate in tetrahydrofuran. The dichloride reacts at once and causes the temperature to rise by about 8° C. The dark violet solution is allowed to stand at room temperature for 1 hour. The solution is then slightly acidified with 0.3 ml of glacial acetic acid, the color changing to pale yellow. The batch is dissolved in 50 ml of benzene, the benzene solution agitated with 20 ml of water, the water is removed, and the benzene solution washed with 2 × 2 ml of saturated sodium chloride solution. The organic phase is dried with calcium chloride and concentrated under reduced pressure at 20° C. A pressure of 0.1 mm Hg and a temperature of 20° C. are maintained for 24 hours, and 0.638 g of a highly viscous brown resin obtained (81% of the theoretical yield).

reactant | α,α'-dichloro-2,5-difluoro-para-xylene | 2.91 mmols, 0.615 g | ClCC1=C(C=C(C(=C1)F)CCl)F | C8H6Cl2F2
reactant | sodium cyclopentadienate | C1(=CC=CC1)C(=O)[O-].[Na+]
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | water | 20 ml | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | α,α'-bis(cyclopentadienyl)-2,5-difluoro-paraxylene | C1(C=CC=C1)CC1=C(C=C(C(=C1)F)CC1C=CC=C1)F | C18H16F2
